US08865920B2
Synthesis of N-Acetyl Valine
Valine (1 g, 8.53 mmol) and acetic acid (20 mL) were mixed together and heated at 150° C. in a microwave for one hour. The excess acetic acid was removed using a rotary evaporator. The residue was stirred in MTBE at ambient temperature for one hour. The mixture was filtered and the solid was washed with MTBE. The solid was dried in a vacuum oven at 60° C. The product was obtained as a white solid (1.13 grams, 83.5%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.74-0.98 (m, 6H), 1.81-1.96 (m, 3H), 1.97-2.18 (m, 1H), 4.13 (dd, 1H), 7.99 (d, 1H).

reactant | Valine | 8.53 mmol, 1 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | N-Acetyl Valine | 1.13 grams, 83.5% | C(C)(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO3
